US06573270B1
Ethyl 2-bromo2-(2-methoxyphenoxy)acetate
A solution of N-bromosuccinimide (13.35 g), azoisobutyronitrile (200 mg) and ethyl 2-(2-methoxyphenoxy)acetate (15.1 g) in anhydrous carbon tetrachloride (ex. calcium hydride) (100 ml) was irradiated with a 120 W sunlamp under reflux and a nitrogen atmosphere for 7 hours. The resulting suspension was allowed to stand at room temperature for 72 hours and was then filtered to remove the suspended solids, which were washed with toluene (40 ml). The combined filtrates were evaporated under vacuum leaving a brown liquid (22 g) Rf 0.75 (dichloromethane).

reactant | N-bromosuccinimide | 13.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 2-(2-methoxyphenoxy)acetate | 15.1 g | COC1=C(OCC(=O)OCC)C=CC=C1 | C11H14O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 2-bromo2-(2-methoxyphenoxy)acetate | 22 g | BrC(C(=O)OCC)OC1=C(C=CC=C1)OC | C11H13BrO4
